US08461179B1
Nitric acid (16.00 mL, 322 mmol) was cooled to −15° C. and treated portion-wise with 2-bromo-4-fluorophenylacetic acid (10.00 g, 42.9 mmol) maintaining an internal temperature of −10° C. to −5° C. Once the addition was complete the mixture was warmed to 5° C. over −15 minutes, poured onto ice (200 mL), stirred vigorously until all of the ice melted, and then filtered and rinsed with water. The resulting solid was dissolved in EtOAc, washed with brine, dried (MgSO4) and concentrated to dryness to afford 2-(2-bromo-4-fluoro-5-nitrophenyl)acetic acid (10.93 g, 92% yield) as a bright yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.29 (d, 1H), 8.04 (d, 1H), 3.85 (s, 2H).

reactant | Nitric acid | 322 mmol, 16.00 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-bromo-4-fluorophenylacetic acid | 42.9 mmol, 10.00 g | BrC1=C(C=CC(=C1)F)CC(=O)O | C8H6BrFO2
product | 2-(2-bromo-4-fluoro-5-nitrophenyl)acetic acid | 10.93 g, 92% yield | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)O | C8H5BrFNO4
